US20010049379A1
D. 2-(2,5-Dimethylpyrrolyl)-6-(4hydroxy-1-naphthyl)-pyridine
To a 125 mL round-bottomed flask equipped with condenser and N2 inlet were added 1.53 g (3.795 mmol) 2-(2,5-dimethylpyrrolyl)-6-(4-benzyloxy-1-naphthyl)-pyridine, 1.20 g (18.975 mmol) ammonium formate, 100 mg 10% palladium-on-carbon, and 30 mL ethanol. The reaction was refluxed 4 hours, with additional catalyst and formate added at 2 and 3 hours, then cooled and filtered through Celite with ethanol and methylene chloride. The filtrate was evaporated and the residue taken up in ethyl acetate/aqueous sodium bicarbonate solution. The organic layer was washed with brine, dried over sodium sulfate, and evaporated to a light brown solid, 1.21 g (˜100%).

reactant | 2-(2,5-dimethylpyrrolyl)-6-(4-benzyloxy-1-naphthyl)-pyridine | 3.795 mmol, 1.53 g | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1)C | C28H24N2O
reactant | ammonium formate | 18.975 mmol, 1.20 g | C(=O)[O-].[NH4+]
reactant | formate | C(=O)[O-]
catalyst | palladium-on-carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-(2,5-Dimethylpyrrolyl)-6-(4hydroxy-1-naphthyl)-pyridine | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C2=CC=CC=C12)O)C | C21H18N2O
